US05173496
A solution of benzaldehyde (1.48 g) in ethanol (10 ml) was added to a stirred suspension of 5-chloro-2-hydrazinobenzoic acid hydrochloride (described in U.S. Pat. No. 4,105,766; 5.2 g) in water (100 ml). Stirring was continued for 1 hour. The mixture was then left unstirred for 16 hours and then extracted with ether. The extracts were dried (MgSO4) and evaporated to give 2-(benzylidenehydrazino)-5-chlorobenzoic acid (3.5 g) which was used without purification.

reactant | benzaldehyde | 1.48 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-chloro-2-hydrazinobenzoic acid hydrochloride | Cl.ClC=1C=CC(=C(C(=O)O)C1)NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-(benzylidenehydrazino)-5-chlorobenzoic acid | 3.5 g | C(C1=CC=CC=C1)=NNC1=C(C(=O)O)C=C(C=C1)Cl | C14H11ClN2O2
